ATLAS TIA - loop gain with TI OPAx828 PSpice model
* VINJ is 0 V at DC so the normal bias point is preserved.
* Loop return ratio is -V(AMP)/V(FB), verified separately below.
.include vendor/OPAx828.LIB
.param Cfit=0.5p Cstray=0.1p Cextra=15p Ccable=100p Rreceiver=100k
.step param Cfit list 0.2p 0.5p 1p 5p

VPLUS VPLUS_IN 0 15
VMINUS VMINUS_IN 0 -15
R3 VPLUS_IN VP 10
R4 VMINUS_IN VN 10
C2 VP 0 100n
C3 VN 0 100n
C4 VP 0 10u
C5 VN 0 10u

Cexternal TIP 0 {Cextra}
R1 TIP FB 100Meg
C1 TIP FB {Cfit}
Cfeedback_stray TIP FB {Cstray}
VINJ AMP FB DC 0 AC 1
XU1 0 TIP VP VN AMP OPAx828
R2 AMP OUT 220
Rload OUT 0 {Rreceiver}
Cload OUT 0 {Ccable}

.ac dec 200 0.1 100Meg
.save V(AMP) V(FB) V(TIP) V(OUT)
.end
