ATLAS TIA - illustrative C1 and R1 tolerance at high-input-capacitance phase corner
* External Cin=85pF, feedback stray=0, cable=1000pF, receiver=open (1T).
.include vendor/OPAx828.LIB
.param Cfit=0.2p Rfeedback=100Meg
.step param Cfit list 0.1p 0.2p 0.3p 0.4p 0.5p 0.6p
.step param Rfeedback list 99Meg 100Meg 101Meg
VPLUS VPLUS_IN 0 15
VMINUS VMINUS_IN 0 -15
R3 VPLUS_IN VP 10
R4 VMINUS_IN VN 10
C2 VP 0 100n
C3 VN 0 100n
C4 VP 0 10u
C5 VN 0 10u
Cexternal TIP 0 85p
R1 TIP FB {Rfeedback}
C1 TIP FB {Cfit}
Cfeedback_stray TIP FB 0
VINJ AMP FB DC 0 AC 1
XU1 0 TIP VP VN AMP OPAx828
R2 AMP OUT 220
Rload OUT 0 1T
Cload OUT 0 1000p
.ac dec 100 0.1 100Meg
.save V(AMP) V(FB)
.end
