ATLAS TIA - preliminary AC compensation sweep (proxy amplifier only)
* Positive IIN flows into TIP and should make RAW/OUT negative.
* This is NOT an OPA828 device model or a release qualification.
.param Cfit=0.5p Cstray=0.1p Cextra=15p Ccable=100p Rreceiver=100k
.step param Cfit list 0.2p 0.5p 1p 5p

VPLUS VPLUS_IN 0 15
VMINUS VMINUS_IN 0 -15
R3 VPLUS_IN VP 10
R4 VMINUS_IN VN 10
C2 VP 0 100n
C3 VN 0 100n
C4 VP 0 10u
C5 VN 0 10u

IIN 0 TIP DC 0 AC 1p
Cdevice TIP 0 15p
Cexternal TIP 0 {Cextra}
R1 TIP RAW 100Meg
C1 TIP RAW {Cfit}
Cfeedback_stray TIP RAW {Cstray}
XU1 0 TIP VP VN RAW OPA828_PROXY
R2 RAW OUT 220
Rload OUT 0 {Rreceiver}
Cload OUT 0 {Ccable}

* One-pole 45 MHz GBW proxy; 1e6 DC gain, 45 Hz dominant pole.
.subckt OPA828_PROXY INP INM VP VN OUT
EGAIN N1 0 INP INM 1e6
RDOM N1 N2 1k
CDOM N2 0 3.536u
BCLIP DRIVE 0 V=limit(V(N2),V(VN)+0.9,V(VP)-0.9)
ROUT DRIVE OUT 10
.ends OPA828_PROXY

.ac dec 200 0.1 10Meg
.save V(TIP) V(RAW) V(OUT)
.end
